US05654307
7-Amino-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (167 mg, 0.87 mmol) (described in a previous experimental) and 3-bromoaniline (0.75 mL, 7.8 mmol) is stirred under N2 at 190° C. for 2.5 h, and the precipitate which appears on cooling is recrystallized from PriOH. 1H NMR (DMSO) δ 9.91 (1H, brs), 9.34 (1H, s), 8.45 (1H, s), 8.19 (1H, s), 7.84 (1H, d, J=8.0 Hz), 7.34 (1H, t, J=8.0 Hz), 7.29 (1H, d, J=8.2 Hz), 6.68 (2H, brs), 6.45 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 0.87 mmol, 167 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3-bromoaniline | 7.8 mmol, 0.75 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
product | 7-Amino-4-(3-bromoanilino)pyrido[4,3-d]pyrimidine | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=CC=C1)Br | C13H10BrN5
